US09102591B2
2,3-dichloro-N-(3-(1-fluorocyclopropyl)-2-(6-(trifluoromethyl)pyridin-3-yl)propyl)benzamide
From 2,3-dichlorobenzoic acid and 3-(1-fluorocyclopropyl)-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine. LCMS (MH+): m/z=435.1, tR (minutes, Method G)=2.46

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 3-(1-fluorocyclopropyl)-2-(6-(trifluoromethyl)pyridin-3-yl)propan-1-amine | FC1(CC1)CC(CN)C=1C=NC(=CC1)C(F)(F)F | C12H14F4N2
product | 2,3-dichloro-N-(3-(1-fluorocyclopropyl)-2-(6-(trifluoromethyl)pyridin-3-yl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2(CC2)F)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1Cl | C19H16Cl2F4N2O
